US06617339B1
3-(3-Fluoro-4-((3R)-3-t-butoxycarbonylamino-1-pyrrolidinyl )phenyl)-5(R)-hydroxymethyloxazolidin-2-one
5-Ethoxycarbonylamino-2-((3R)-3-t-butoxycarbonylamino-1-pyrrolidinyl)fluorobenzene (33.6 g, 0.092 M) was dissolved in dry tetrahydrofuran (300 ml) under nitrogen. cooled to −70°, and treated dropwise over 30 minutes with a solution of lithiun t-butoxide (1 M in tetrahydrofuran, 100.7 ml), keeping the temperature below −65°. After stirring for 5 minutes, (R)-glycidylbutyrate (14.52 g, 0.101 M) was added, and stirring continued at −65° for 1 hour, before allowing the temperature to rise to ambient over 16 hours. The mixture was treated with MeOH (50 ml), stirred at ambient temperature for 1 hour, and the precipitate collected and washed well with tetrahydrofuran to give the desired product (21.8 g).

reactant | 5-Ethoxycarbonylamino-2-((3R)-3-t-butoxycarbonylamino-1-pyrrolidinyl)fluorobenzene | 0.092 M, 33.6 g | C(C)OC(=O)NC=1C=CC(=C(C1)F)N1C[C@@H](CC1)NC(=O)OC(C)(C)C | C18H26FN3O4
reactant | t-butoxide | 1 M, 100.7 ml | CC(C)([O-])C
reactant | (R)-glycidylbutyrate | 0.101 M, 14.52 g | C([C@H]1CO1)OC(CCC)=O | C7H12O3
reactant | MeOH | 50 ml | CO | CH4O
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
product | 3-(3-Fluoro-4-((3R)-3-t-butoxycarbonylamino-1-pyrrolidinyl )phenyl)-5(R)-hydroxymethyloxazolidin-2-one | 21.8 g | FC=1C=C(C=CC1N1C[C@@H](CC1)NC(=O)OC(C)(C)C)N1C(O[C@H](C1)CO)=O | C19H26FN3O5
